US09108939B2
B: 2-(4-((4-(2-Bromo-4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
4-(2-Bromo-4-nitrophenoxy)piperidine (10.96 mmol, 3.3 g), 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (10.96 mmol, 3.69 g) and potassium carbonate (32.9 mmol, 4.54 g) were combined in acetonitrile (40 mL) and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue dissolved in dichloromethane (150 mL). The organic phase was washed with water (2×50 mL) then brine (50 mL). The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting with dichloromethane to 10% methanol/dichloromethane) to afford the title compound (5.25 g). MS (ESI) m/z 558.8 [M+H]+

reactant | 4-(2-Bromo-4-nitrophenoxy)piperidine | 10.96 mmol, 3.3 g | BrC1=C(OC2CCNCC2)C=CC(=C1)[N+](=O)[O-] | C11H13BrN2O3
reactant | 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 10.96 mmol, 3.69 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 32.9 mmol, 4.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(4-((4-(2-Bromo-4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 5.25 g | BrC1=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC(=C1)[N+](=O)[O-] | C21H19BrF6N2O4
